US04322370
Following the method of Rudenko et al*, anisole was alkylated with ethyl 4-(4-chlorophenyl)-2,2-dimethylbut-3-enoate. Hydrolysis of the ester with potassium hydroxide gave 4-(4-chlorophenyl)-4-(4-methoxyphenyl)-2,2-dimethylbutanoic acid, purified by washing with sodium bicarbonate solution and water. Recrystallization from ethyl acetate-light petrol (b.p. 60°-80°) afforded the acid as white prisms, m.p. 139°-142° (63%).

reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | ethyl 4-(4-chlorophenyl)-2,2-dimethylbut-3-enoate | ClC1=CC=C(C=C1)C=CC(C(=O)OCC)(C)C | C14H17ClO2
reactant | potassium hydroxide | [OH-].[K+]
product | 4-(4-chlorophenyl)-4-(4-methoxyphenyl)-2,2-dimethylbutanoic acid | ClC1=CC=C(C=C1)C(CC(C(=O)O)(C)C)C1=CC=C(C=C1)OC | C19H21ClO3
